US07354933B2
1 ml of concentrated sulfuric acid is added to a solution of 2.2 g of 2-chloropyridine-4-carboxylic acid in 30 ml of ethanol. The reaction mixture is refluxed with stirring for 16 hours and then concentrated to dryness under reduced pressure. The residue thus obtained is taken up in 30 ml of water and then extracted with 3×30 ml of dichloromethane. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. The oil thus obtained is purified by filtration through 13 g of silica, eluting with dichloromethane. The fractions containing the expected product are concentrated to dryness under reduced pressure. 2.1 g of ethyl 2-chloropyridine-4-carboxylate are thus obtained.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloropyridine-4-carboxylic acid | 2.2 g | ClC1=NC=CC(=C1)C(=O)O | C6H4ClNO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | ethyl 2-chloropyridine-4-carboxylate | 2.1 g | ClC1=NC=CC(=C1)C(=O)OCC | C8H8ClNO2
